US07696234B2
2-Fluoro-4-(4-methanesulfonyl-benzyloxy)-benzoic acid methyl ester
The title compound is prepared in a manner substantially analogous to Procedure E except KI (1.0 eq.) is also added from 2-fluoro-4-hydroxy-benzoic acid methyl ester [CAS 197507-22-5] and 4-methylsulfonylbenzyl chloride. 1H NMR (DMSO) 8.0 (d, 2H), 7.9 (t, 1H), 7.7 (d, 2H), 7.1 (dd, 1H), 7.0 (dd, 1H), 5.4 (s, 2H), 3.8 (s, 3H), 3.3 (s, 3H)

reactant | 2-fluoro-4-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)O)F)=O | C8H7FO3
reactant | 4-methylsulfonylbenzyl chloride | CS(=O)(=O)C1=CC=C(CCl)C=C1 | C8H9ClO2S
product | 2-Fluoro-4-(4-methanesulfonyl-benzyloxy)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCC1=CC=C(C=C1)S(=O)(=O)C)F)=O | C16H15FO5S
